US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}adamantanecarboxamide [81]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (51 mg) and commercially available adamantanecarboxylic acid (110 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (107 mg) was added, and the admixture was stirred at room temperature for 15 hours. The reaction mixture was purified in the same manner as described in Example 51 to obtain 13 mg of the title compound (yield: 17%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 51 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | adamantanecarboxylic acid | 110 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 107 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}adamantanecarboxamide | 13 mg, yield: 17% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C28H30N2O4
